US04071518
To 4-cyanopyridine (2 g.) in methanol (30 ml.) is added sodium (0.1 g.). After standing at room temperature 0.5 hour the solution is added to 1-methyl-2-p-chloro-benzylhydrazine (3.6 g.) in methanol (40 ml.). The reaction mixture is refluxed for 5 hours and concentrated to an oil which is solidified. After recrystallization from ethyl alcohol 0.5 g. of 1-methyl-3-(p-chlorophenyl)-5-(4-pyridyl)-1,2,4-triazole m.p. 191° C. is obtained.

reactant | 4-cyanopyridine | 2 g | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | sodium | 0.1 g | [Na] | Na
reactant | 1-methyl-2-p-chloro-benzylhydrazine | 3.6 g | CNNCC1=CC=C(C=C1)Cl | C8H11ClN2
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 40 ml | CO | CH4O
product | 1-methyl-3-(p-chlorophenyl)-5-(4-pyridyl)-1,2,4-triazole | CN1N=C(N=C1C1=CC=NC=C1)C1=CC=C(C=C1)Cl | C14H11ClN4
